US05786379
(d) Preparation of methyl 4-[[3-hydroxy-3-[3-(1-adamantyl)-4-methoxyethoxymethoxyphenyl]-1-propynyl]]benzoate
2.5 g (6.7 mmol) of a-ethynyl-3-(1-adamantyl)-4-methoxyethoxymethoxyphenylmethanol, 1.2 g (6.7 mmol) of methyl 4-iodobenzoate and 50 ml of triethylamine were introduced into a three-necked flask. The reaction medium was degassed with nitrogen for 30 min, then 380 mg (0.5 mmol) of bis(triphenylphosphine)palladium (II) chloride and 190 mg (0.8 mmol) of copper iodide were successively added. The reaction medium was stirred at room temperature for four hours and was then evaporated to dryness and the residue obtained was taken up in water and ethyl ether. The organic phase was separated out after settling had taken place, dried over magnesium sulfate and evaporated. The residue obtained was purified by chromatography on a column of silica, eluted with a mixture of ethyl acetate and heptane (20/80). 2.7 g (79%) of methyl 4-[[3-hydroxy-3-[3-(1-adamantyl)-4-methoxyethoxymethoxyphenyl]-1-propynyl]]benzoate, having a melting point of 95°-6° C., were recovered.

reactant | a-ethynyl-3-(1-adamantyl)-4-methoxyethoxymethoxyphenylmethanol | 6.7 mmol, 2.5 g | C(#C)C(COC)OCOC1=C(C=C(C=C1)CO)C12CC3CC(CC(C1)C3)C2 | C23H30O4
reactant | methyl 4-iodobenzoate | 6.7 mmol, 1.2 g | IC1=CC=C(C(=O)OC)C=C1 | C8H7IO2
reactant | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
solvent | ethyl ether | C(C)OCC | C4H10O
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.5 mmol, 380 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper iodide | 0.8 mmol, 190 mg | [Cu](I)I
product | methyl 4-[[3-hydroxy-3-[3-(1-adamantyl)-4-methoxyethoxymethoxyphenyl]-1-propynyl]]benzoate | OC(C#CC1=CC=C(C(=O)OC)C=C1)C1=CC(=C(C=C1)OCOCCOC)C12CC3CC(CC(C1)C3)C2 | C31H36O6
